US08212041B2
tert-butyl 2-(3-methoxyquinolin-6-yl)propanoate
To a flame-dry 100 ml 3-neck round-bottomed flask was added lithium bis(trimethylsilyl)amide, 1.0 m solution in tetrahydrofuran (5 ml, 5 mmol) and THF (20 mL). The mixture was cooled to −78° C. followed by adding tert-butyl 2-(3-methoxyquinolin-6-yl)acetate (0.88 g, 3 mmol) in THF (10 mL) dropwise via addition funnel. After stirring at −78° C. for 30 min, iodomethane (0.4 ml, 6 mmol) was added. The reaction mixture was stirred for 30 min at −78° C. then allowed to warm to rt and stir for 1 h. The mixture was then quenched with sat. NH4Cl (3 mL). Solvent was removed. The residue was partitioned between EtOAc/water. The organic layer was washed with brine, dried over MgSO4 and removed solvent. The crude material was purified using SiO2 chromatography (Teledyne Isco RediSep®, P/N 68-2203-027, 40 g SiO2, solvent system: hexane:acetone=90%:10%, Flow=30 mL/min) to afford a final product as yellowish liquid. MS m/z: 288.4 (M+H). Calc'd. for C17H21NO3—287.3.

reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | tert-butyl 2-(3-methoxyquinolin-6-yl)acetate | 3 mmol, 0.88 g | COC=1C=NC2=CC=C(C=C2C1)CC(=O)OC(C)(C)C | C16H19NO3
reactant | iodomethane | 6 mmol, 0.4 ml | IC | CH3I
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 5 mmol, 5 ml | O1CCCC1 | C4H8O
product | tert-butyl 2-(3-methoxyquinolin-6-yl)propanoate | COC=1C=NC2=CC=C(C=C2C1)C(C(=O)OC(C)(C)C)C | C17H21NO3
